US04303655
To a solution prepared by stirring a mixture of selenium dioxide (0.22 g.), dioxane (10 ml.) and water (0.2 ml.) for 10 minutes at 110° C. was added ethyl 2(2-mesylamino-1,3-thiazol-4-yl)acetate, which can be represented as ethyl 2-(2-mesylimino-2,3-dihydro-1,3-thiazol-4-yl)acetate, (0.53 g.), and the mixture was refluxed for 1 hour. After the reaction, the reaction mixture was treated with activated charcoal. The precipitated crystals in the filtrate were collected by filtration and dried to give white crystals of ethyl 2-(2-mesylamino-1,3-thiazol-4-yl)glyoxylate, which can be represented as ethyl 2-(2-mesylimino-2,3-dihydro-1,3-thiazol-4-yl)glyoxylate, (0.22 g.), mp. 222° to 225° C. On the other hand, the remaining filtrate was concentrated and the residue was washed with water and diethyl ether in turn and then dried to give the same object compound (0.12 g.).

reactant | selenium dioxide | 0.22 g | [Se](=O)=O | O2Se
reactant | dioxane | 10 ml | O1CCOCC1 | C4H8O2
reactant | ethyl 2(2-mesylamino-1,3-thiazol-4-yl)acetate | S(=O)(=O)(C)NC=1SC=C(N1)CC(=O)OCC | C8H12N2O4S2
reactant | ethyl 2-(2-mesylimino-2,3-dihydro-1,3-thiazol-4-yl)acetate | 0.53 g | S(=O)(=O)(C)N=C1SC=C(N1)CC(=O)OCC | C8H12N2O4S2
reactant | charcoal | C | CH4
solvent | water | 0.2 ml | O | H2O
product | ethyl 2-(2-mesylamino-1,3-thiazol-4-yl)glyoxylate | S(=O)(=O)(C)NC=1SC=C(N1)C(C(=O)OCC)=O | C8H10N2O5S2
